US08247396B2
N-8-quinolinyl-8-quinoline carboxamide (Compound 24)
(Benzotriazol-1-yloxy)tris(dimethylamino)phosphonium hexafluorophosphate (192 mg; 0.43 mmol), 1-hydroxybenzotriazole monohydrate (79 mg; 0.59 mmol) and triethylamine (0.200 ml; 1.44 mmol) are added to a solution of quinoline-8-carboxylic acid (50 mg; 0.29 mmol) dissolved in 5 ml of dry CH2Cl2. After stirring for 30 minutes at ambient temperature, 8-aminoquinoline (84 mg; 0.58 mmol) is added and the mixture is stirred for 4 hours 30 minutes at ambient temperature. Water (10 ml) is added and the product is extracted with CH2Cl2 (3×10 ml). The volume is reduced and the product is purified by silica gel chromatography, eluted with CH2Cl2/CH3OH (0 to 2%, v/v) then the solvent is evaporated under reduced pressure and the fractions containing a high proportion of products are repurified by silica gel chromatography, eluted with CH2Cl2/CH3OH (99.5/0.5; v/v). 24 is obtained after evaporation of the solvent in the form of a white powder (83 mg; 0.28 mmol, yield=96%). NMR-1H (250 MHz, CDCl3) δ, ppm: 15.13 (s, 1H); 9.25 (dd, 3J (H, H)=4.0 Hz, 4J (H, H)=2.0 Hz, 1H); 9.19 (dd, 3J (H, H)=7.5 Hz, 4J (H, H)=1.5 Hz, 1H); 9.00 (m, 2H); 8.32 (dd, 3J (H, H)=8.0 Hz, 4J (H, H)=2.0 Hz, 1H); 8.19 (dd, 3J (H, H)=8.0 Hz, 4J (H, H)=1.5 Hz, 1H); 8.01 (dd, 3J (H, H)=8.0 Hz, 4J (H, H)=1.5 Hz, 1H); 7.74 (dd, 3J (H, H)=7.5 and 8.0 Hz, 1H); 7.60 (m, 3H); 7.48 (dd, 3J (H, H)=4.5 and 8.0 Hz, 1H). NMR-13C (63 MHz, CDCl3) δ, ppm: 164.28; 149.48; 148.57; 145.60; 140.12; 137.59; 136.65; 136.18; 134.02; 132.10; 129.85; 128.41; 128.28; 127.50; 126.63; 121.75; 121.34; 121.12; 118.18. MS (CID, NH3): m/z=300 (MH+). UV/vis [DMSO/20 mM Tris-HCl pH=7.4 containing 150 mM NaCl (8/2, v/v)]: λ nm (ε M−1 cm−1)=261 (13,300, shoulder), 274 (14,800), 294 (12,200).

reactant | (Benzotriazol-1-yloxy)tris(dimethylamino)phosphonium hexafluorophosphate | 0.43 mmol, 192 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 0.59 mmol, 79 mg | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 1.44 mmol, 0.200 ml | C(C)N(CC)CC | C6H15N
reactant | quinoline-8-carboxylic acid | 0.29 mmol, 50 mg | N1=CC=CC2=CC=CC(=C12)C(=O)O | C10H7NO2
reactant | 8-aminoquinoline | 0.58 mmol, 84 mg | NC=1C=CC=C2C=CC=NC12 | C9H8N2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | Water | 10 ml | O | H2O
product | N-8-quinolinyl-8-quinoline carboxamide | yield=96% | N1=CC=CC2=CC=CC(=C12)NC(=O)C=1C=CC=C2C=CC=NC12 | C19H13N3O
